Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Right lower extremity ischemia
 
Major Surgical or Invasive Procedure:
A right common femoral artery to
anterior tibial artery using in situ greater saphenous vein.

 
History of Present Illness:
The patient is a ___
gentleman with right lower extremity ischemia.  He previously
underwent an angiogram on ___, which demonstrated
occluded or very limited flow through the superficial femoral
artery, and lousy runoff below the popliteal.  There was
reconstitution of the anterior tibial artery, and was felt
that it was appropriate for a bypass especially given the
patient had available greater saphenous vein. 
 
Past Medical History:
HTN, hyperlipidemia, GERD, peripheral neuropathy, bronchitis, R 
CEA (___), R CEA stent (___)

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
GEN: A&Ox3
RESP: CTAB
___: RRR
RLE: wound well healed, no drainage. Dressings c/d/i.
Ext: Pulses present distally b/l ___
 
Pertinent Results:
___ 07:10AM BLOOD Hct-35.5* Plt ___
___ 04:51AM BLOOD Hct-34.5* Plt ___
___ 03:28AM BLOOD WBC-10.8 Hgb-12.3* Hct-37.4* Plt ___
___ 01:11PM BLOOD Hgb-12.1*# Hct-36.6*# Plt ___
___ 07:10AM BLOOD Plt ___
___ 04:51AM BLOOD Plt ___
___ 03:28AM BLOOD Plt ___
___ 01:11PM BLOOD Plt ___
___ 01:11PM BLOOD ___ PTT-150* ___
___ 07:10AM BLOOD Na-135 K-4.5 Cl-98
___ 04:51AM BLOOD UreaN-13 Creat-0.6 Na-134 K-4.1 Cl-99
___ 03:28AM BLOOD Glucose-136* UreaN-12 Creat-0.7 Na-135 
K-4.3 Cl-100 HCO3-25 AnGap-14
___ 01:11PM BLOOD Glucose-143* UreaN-14 Creat-0.7 Na-135 
K-4.3 Cl-103 HCO3-25 AnGap-11
___ 01:11PM BLOOD ALT-20 AST-28 AlkPhos-47
___ 01:11PM BLOOD CK-MB-3 cTropnT-<0.01
___ 03:28AM BLOOD Calcium-8.1* Phos-3.6 Mg-1.9
___ 01:11PM BLOOD Calcium-8.3* Phos-4.0 Mg-1.7
___ 11:45AM BLOOD pO2-204* pCO2-39 pH-7.42 calTCO2-26 Base 
XS-1 Comment-SOURCE NOT
___ 10:22AM BLOOD pO2-222* pCO2-39 pH-7.45 calTCO2-28 Base 
XS-3 Comment-SOURCE NOT
___ 11:45AM BLOOD Glucose-132* Lactate-2.3* Na-133 K-3.7 
Cl-104
___ 10:22AM BLOOD Glucose-141* Lactate-1.9 Na-134 K-3.4 
Cl-103
___ 11:45AM BLOOD Hgb-11.5* calcHCT-35
___ 10:22AM BLOOD Hgb-13.1* calcHCT-39
___ 11:45AM BLOOD freeCa-1.09*
___ 10:22AM BLOOD freeCa-1.___ M with right lower extremity ischemia.  He had 
previously
underwent an angiogram on ___, which demonstrated
an occluded or very limited flow through the superficial femoral
artery, and lousy runoff below the popliteal.  There was
reconstitution of the anterior tibial artery, and was felt
that it was appropriate for a bypass especially given the
patient had available greater saphenous vein. After obtaining 
surgical consent a right common femoral artery to anterior 
tibial artery using in situ greater saphenous vein was performed 
(see procedure not for full details)

Pt. tolerated the surgery without complication and was brought 
to the surgical floor after a brief stay in the PACU. 

The patients pain was well controlled and his diet was advanced 
to regular food. His foley was removed and he was able to void 
appropriately.

On POD 3 he worked with physical therapy and was ambulating out 
of bed. This continued on POD 4 at which time he was able to 
walk with a cane. ___ recommended him to go home without a need 
for additional home ___ at this time. 

At time of discharge pt was in stable condition, with his pain 
well controlled, and tolerating a regular diet. Of note, his 
PCP, ___ was also involved in his dispo plan and was made 
aware of the patients progress. Pt. will follow up with Dr. 
___ in clinic and will call his office after being 
discharged to schedule the appointment.
 
Medications on Admission:
ASA 81mg', Atenolol 25mg (skips dose if BP is below 135), 
omeprazole 20mg'prn, Nortriptyline 50mg hs

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Nortriptyline 50 mg PO HS 
4. Omeprazole 20 mg PO DAILY GERD 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4-6hrs Disp #*20 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower extremity ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Followup Instructions:
___